US08686002B2
7-Fluoro-3-(2-methoxybenzyl)-6-morpholin-4-ylquinolin-2-amine
The title compound was synthesized according to EXAMPLE 11 from 2-amino-4-fluoro-5-morpholin-4-ylbenzaldehyde and 3-(2-methoxyphenyl)propionitrile.

reactant | 2-amino-4-fluoro-5-morpholin-4-ylbenzaldehyde | NC1=C(C=O)C=C(C(=C1)F)N1CCOCC1 | C11H13FN2O2
reactant | 3-(2-methoxyphenyl)propionitrile | COC1=C(C=CC=C1)CCC#N | C10H11NO
product | 7-Fluoro-3-(2-methoxybenzyl)-6-morpholin-4-ylquinolin-2-amine | FC1=C(C=C2C=C(C(=NC2=C1)N)CC1=C(C=CC=C1)OC)N1CCOCC1 | C21H22FN3O2
